US09416101B2
3-(chlorosulfonyl)benzoic acid (0.5 g, 2.27 mmol) was treated with 1,2,3,4-tetrahydroquinoline (906 mg, 6.80 mmol) using method A to give 3-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)benzoic acid as an off white solid. Yield: 318 mg (44%). 1H-NMR: 8.17 (d, J=8.0 Hz, 1H), 8.06-8.04 (m, 1H), 7.80 (d, J=8.0 Hz, 1H), 7.68 (t, J=8.0 Hz, 1H), 7.61 (d, J=8.0 Hz, 1H), 7.24-7.18 (m, 1H), 7.15-7.05 (m, 2H), 3.80-3.76 (m, 2H), 2.40 (t, J=6.5 Hz, 2H), 1.61-1.54 (m, 2H).

reactant | 3-(chlorosulfonyl)benzoic acid | 2.27 mmol, 0.5 g | ClS(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C7H5ClO4S
reactant | 1,2,3,4-tetrahydroquinoline | 6.80 mmol, 906 mg | N1CCCC2=CC=CC=C12 | C9H11N
product | 3-(3,4-dihydroquinolin-1(2H)-ylsulfonyl)benzoic acid | N1(CCCC2=CC=CC=C12)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C16H15NO4S
